US04938790
Preparation of 2'-Methoxymethoxy-3,4-dimethoxy-2-methoxymethoxybenzophenone.
A mixture 12.3 g (126 mmol) of chromium trioxide in 153 ml of dichloromethane was cooled to 0° C. and 20.3 ml (252 mmol) of pyridine were added with stirring to obtain, after 45 min, a yellow-brown solution (Collin's reagent). (2-Methoxymethoxyphenyl)(3,4-dimethoxy-2-methoxymethoxyphenyl)methanol (7.67 g, 21 mmol) was added with stirring and the mixture allowed to warm to room temperature with stirring overnight. Twenty grams of florisil were added and the mixture was concentrated by evaporation under reduced pressure and filtered through celite and then further eluted with ether. The resulting mixture was concentrated under reduced pressure and purified by liquid chromatography using a Waters Prep 500 Chromatograph with a silica gel column and eluting with a 70:30 mixture of hexane and ethyl acetate to obtain 6.0 g (79 percent of theory) of the title compound as an oil. The proton and carbon NMR and infrared spectra were consistent with the assigned structure.

reactant | pyridine | 252 mmol, 20.3 ml | N1=CC=CC=C1 | C5H5N
reactant | Collin's reagent | O=[Cr](=O)=O.C1=NC=CC=C1.C2=NC=CC=C2
reactant | (2-Methoxymethoxyphenyl)(3,4-dimethoxy-2-methoxymethoxyphenyl)methanol | 21 mmol, 7.67 g | COCOC1=C(C=CC=C1)C(O)C1=C(C(=C(C=C1)OC)OC)OCOC | C19H24O7
reactant | florisil | Twenty grams | [O-][Si](=O)[O-].[Mg+2]
solvent | dichloromethane | 153 ml | ClCCl | CH2Cl2
catalyst | chromium trioxide | 126 mmol, 12.3 g | [O-2].[O-2].[O-2].[Cr+6]
product | 2'-Methoxymethoxy-3,4-dimethoxy-2-methoxymethoxybenzophenone | COCOC1=C(C=CC=C1)C(C1=C(C(=C(C=C1)OC)OC)OCOC)=O | C19H22O7
